US06949543B2
Potassium carbonate and benzyl bromoacetate were added to DMF solution of ethyl (4-aminophenoxy)acetate and stirred under heating. After adding water and ethyl acetate to the reaction mixture, the organic layer was separated, washed and dried, and then the solvent was evaporated under a reduced pressure. Dichloromethane solution of the thus obtained crude product was mixed with TEA, 4-fluorobenzoyl chloride was added dropwise thereto under ice-cooling and then the reaction solution was stirred. After adding 1 M hydrochloric acid to the reaction solution, the organic layer was separated, washed and dried, and then the solvent was evaporated under a reduced pressure. By purifying the thus obtained crude product by SCG, ethyl {4-[benzyloxycarbonylmethyl-(4-fluorobenzoyl)amino]phenoxy}acetate (colorless oil) was obtained.

reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromoacetate | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | ethyl (4-aminophenoxy)acetate | NC1=CC=C(OCC(=O)OCC)C=C1 | C10H13NO3
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl {4-[benzyloxycarbonylmethyl-(4-fluorobenzoyl)amino]phenoxy}acetate | C(C1=CC=CC=C1)OC(=O)CN(C1=CC=C(OCC(=O)OCC)C=C1)C(C1=CC=C(C=C1)F)=O | C26H24FNO6
